US08541407B2
A solution of 5H-benzo[e]pyrido[3,2-b][1,4]diazepin-6(11H)-one (18 g, 85.3 mmol) and PCl5 (20.5 g) in dichloromethane (650 mL) was stirred at reflux until the starting material was all consumed (use LC/MS to follow the reaction). The reaction mixture was concentrated in vacuo to half volume and the resulting solid was collected by filtration and washed with dichloromethane. The filtrate was further concentrated and a second crop was similarly obtained and combined. The 6-chloro-11H-benzo[e]pyrido[3,2-b][1,4]diazepine was obtained as a yellow solid (total 14 g, 71%). LCMS [M+H]: 230.

reactant | 5H-benzo[e]pyrido[3,2-b][1,4]diazepin-6(11H)-one | 85.3 mmol, 18 g | N1=CC=CC=2NC(C3=C(NC21)C=CC=C3)=O | C12H9N3O
reactant | PCl5 | 20.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 650 mL | ClCCl | CH2Cl2
product | 6-chloro-11H-benzo[e]pyrido[3,2-b][1,4]diazepine | ClC=1C2=C(NC3=C(N1)C=CC=N3)C=CC=C2 | C12H8ClN3
